US08809361B2
5-(4-Cyano-2-fluoro-phenyl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
The title compound is prepared from 5-chloro-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] and 4-cyano-2-fluoro-phenylboronic acid following a procedure analogous to that described for Example 1; the reaction is conducted in a microwave oven at 140° C. LC (method 3): tR=1.16 min; Mass spectrum (ESI+): m/z=450 [M+H]+.

reactant | 5-chloro-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | ClC=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C(=O)OC(C)(C)C)C1)C2 | C19H25ClN2O3
reactant | 4-cyano-2-fluoro-phenylboronic acid | C(#N)C1=CC(=C(C=C1)B(O)O)F | C7H5BFNO2
product | 5-(4-Cyano-2-fluoro-phenyl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | C(#N)C1=CC(=C(C=C1)C=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C(=O)OC(C)(C)C)C1)C2)F | C26H28FN3O3
